US07781426B2
Step A. 1-[3,5-Bis(trifluoromethyl)phenyl]-2-nitropropan-1-ol
A stirred solution of 3,5-bis(trifluoromethyl)benzaldehyde (1.00 g, 4.13 mmol) and nitroethane (1.13 g, 1.08 mL, 15.1 mmol) in absolute EtOH (20 mL) at 0° C. was treated with 10% aq. NaOH (m/v) (1.73 mL, 4.34 mmol), stirred for 1 h and treated with 2% aq. acetic acid (m/v) (13.0 mL, 4.32 mmol). The reaction was stirred for 1 h at room temperature then partitioned between water (50 mL) and EtOAc (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic extracts were washed with saturated NaHCO3 (50 mL) and brine (50 mL), dried (Na2SO4) and concentrated in vacuo to afford a 1.5:1 mixture of threo- and erythro-1-[3,5-bis(trifluoromethyl)phenyl]-2-nitropropan-1-ol as a colorless oil. 1H NMR (CDCl3, 500 MHz) threo-diastereoisomer: δ 7.88 (br s, 1H), 7.86 (br s, 2H), 5.22 (d, J=8.4 Hz, 1H), 4.77 (dq, J=8.4, 6.9 Hz, 1H), 3.03 (br s 1H), 1.42 (d, J=6.9 Hz, 3H), erythro-diastereoisomer: δ 7.90 (br s, 1H), 7.86 (br s, 2H), 5.59 (d, J=3.2 Hz, 1H), 4.72 (dq, J=3.2, 6.9 Hz, 1H), 3.03 (br s 1H), 1.50 (d, J=6.9 Hz, 3H).

reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 4.13 mmol, 1.00 g | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | nitroethane | 15.1 mmol, 1.08 mL, 1.13 g | [N+](=O)([O-])CC | C2H5NO2
reactant | NaOH | 4.34 mmol, 1.73 mL | [OH-].[Na+]
reactant | acetic acid | 4.32 mmol, 13.0 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-[3,5-Bis(trifluoromethyl)phenyl]-2-nitropropan-1-ol | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(C)[N+](=O)[O-])O)(F)F | C11H9F6NO3
